US04250085
(ii)(a) In a manner analogous to that described in Example 5(A)(iii) from the monobenzylamine salt of (N-benzyloxycarbonyl-L-norvalyl)amino-methylphosphonic acid there was obtained (L-norvalylamino)-methylphosphonic acid of melting point 273°-275° C. (decomposition); [α]D20 =+61.2°; [α]36520 =+224° (c=0.54% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (N-benzyloxycarbonyl-L-norvalyl)amino-methylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC)C(=O)NOP(O)(=O)C | C14H21N2O6P
product | (L-norvalylamino)-methylphosphonic acid | N[C@@H](CCC)C(=O)NOP(O)(=O)C | C6H15N2O4P
